US06673795B2
In analogy to the procedure described in example 38b, 4,6-dichloro-2-(2-hydroxy-ethyl-amino)-pyrimidine-5-carbonitrile was treated with 3-picolylamine in dioxane in the presence of N-ethyl-diisopropylamine at room temperature to yield 4-chloro-2-(2-hydroxy-ethylamino)-6-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile as a colorless foam.

reactant | 4,6-dichloro-2-(2-hydroxy-ethyl-amino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)Cl)NCCO | C7H6Cl2N4O
reactant | 3-picolylamine | N1=CC(=CC=C1)CN | C6H8N2
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-chloro-2-(2-hydroxy-ethylamino)-6-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCC=1C=NC=CC1)NCCO | C13H13ClN6O
